US04080453
dl-1-Cyclohexyl-4-[2-(3-hydroxyphenyl)-1-phenylethyl]piperazine
A mixture of dl-1-cyclohexyl-4-[2-(3-methoxyphenyl)-1-phenylethyl]piperazine dihydrochloride (3.3 g), 47% hydrobromic acid (33 ml) and glacial acetic acid (16 ml) is refluxed for 5 hours. The reaction mixture is allowed to cool and the precipitated crystals are collected by filtration, washed with acetone and recrystallized from methanol to give the desired compound as dihydrobromide (2.9 g), melting point: 268°-270° C.

reactant | 1-cyclohexyl-4-[2-(3-methoxyphenyl)-1-phenylethyl]piperazine dihydrochloride | 3.3 g | Cl.Cl.C1(CCCCC1)N1CCN(CC1)C(CC1=CC(=CC=C1)OC)C1=CC=CC=C1
reactant | hydrobromic acid | 33 ml | Br | BrH
solvent | acetic acid | 16 ml | C(C)(=O)O | C2H4O2
product | 1-Cyclohexyl-4-[2-(3-hydroxyphenyl)-1-phenylethyl]piperazine | C1(CCCCC1)N1CCN(CC1)C(CC1=CC(=CC=C1)O)C1=CC=CC=C1 | C24H32N2O
